datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:7])([H:5])[H:6],11.7152
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])=[S:8],48.5344
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19],76.6509
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][C:12]([H:13])([H:14])[H:15])[H:7])([H:4])([H:5])[H:6].[H:11],69.036
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:22]([C:23]([H:26])([H:27])[H:28])([H:24])[H:25])([H:10])([H:11])[H:12],30.4177
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([S:11][H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:15])[H:5].[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[S:11][H:19])([H:12])([H:13])[H:14],41.4216
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](#[C:17][C:18]([C:19]([H:22])([H:23])[H:24])[H:21])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[C:18]([C:17]#[C:16][H:20])([C:19]([H:22])([H:23])[H:24])[H:21])[H:8],22.2589
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[O:4][O:5][H:17])([H:6])([H:7])[H:8].[C:15]([O:16][H:20])([H:18])[H:19],81.00224
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:19](=[C:20]([H:22])[H:23])[H:21])[H:12])([H:9])([H:10])[H:11],18.4096
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:17])[H:7])([H:5])[H:6].[C:12]([S:13])([H:14])([H:15])[H:16],52.7184
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[S:8]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][S:8],61.714
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[H:22])[H:8])([H:6])[H:7].[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])([H:23])[H:24],87.4456
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:16]([C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20])([H:8])[H:9],62.0487
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18],25.104
[C:0]([C:1]([S:2][H:7])[H:6])([H:3])([H:4])[H:5].[S:8]([S:9][H:11])[H:10]>>[C:0]([C:1]([S:2][H:7])([H:6])[H:10])([H:3])([H:4])[H:5].[S:8][S:9][H:11],-17.9912
[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[C:7](=[S:8])([H:9])[H:10]>>[C:0](=[C:1]([C:2](=[S:3])[H:9])[H:6])([H:4])[H:5].[C:7](=[S:8])[H:10],76.0651
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:21])([H:22])[H:23])[H:8],35.564
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[O:11][H:12]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:6])[H:7].[H:5][O:11][H:12],4.397384
